.include osu018p.lib
.include osu018n.lib
m1 net-_m1-pad1_ se bl vdd pfet W=0.9u L=0.18u M=1
m7 blbar se d vdd pfet W=0.9u L=0.18u M=1
m3 d net-_m1-pad1_ vdd vdd pfet W=0.2u L=0.18u M=1
m5 net-_m1-pad1_ d vdd vdd pfet W=0.2u L=0.18u M=1
m2 d net-_m1-pad1_ net-_m2-pad3_ gnd nfet W=0.9u L=0.18u M=1
m6 net-_m2-pad3_ d net-_m1-pad1_ gnd nfet W=0.9u L=0.18u M=1
m4 net-_m2-pad3_ se gnd gnd nfet W=0.9u L=0.18u M=1
v3 vdd gnd  dc 1.8V
v2  bl gnd pulse(1.8V 1.8V 0ns 1ns 1ns 10ns 20ns)
v1  se gnd pulse(0V 1.8V 5ns 1ns 1ns 20ns 40ns)
v4  blbar gnd pulse(1.5V 1.5V 0ns 1ns 1ns 10ns 20ns)
.tran 5e-12 200e-09 0e-09

* Control Statements 
.control
run
plot bl
plot blbar
plot se
plot d
.endc
.end
